US06677368B2
To the suspension of 4-phenyl-1H-indole (1.1 g, 5.7 mmol) in 2-methyl-2-propanol (33 mL), ethanol (22 mL) and acetic acid (11 mL) was added pyridinium tribromide (90% purity from Aldrich, 6.1 g, 17.1 mmol) portionwise over 10 minutes. The mixture was stirred at room temperature for 2 hours, and then to the mixture was added acetic acid (50 mL). After stirring at room temperature for one hour, water (0.5 mL) and zinc (3.7 g, 57 mmol) were added to the reaction mixture and stirring was continued for another hour. The unreacted zinc dust was filtered off and washed with methanol. The filtrate was concentrated and the syrupy residue was suspended in water (100 mL) for overnight. The solid product was filtered, washed repeatedly with water to remove the zinc salt and pyridine salt. After high vacuum dry, 800 mg (67%) of 4-phenyl-1,3-dihydro-indol-2-one as a light yellow solid was obtained.

reactant | 4-phenyl-1H-indole | 5.7 mmol, 1.1 g | C1(=CC=CC=C1)C1=C2C=CNC2=CC=C1 | C14H11N
reactant | pyridinium tribromide | 17.1 mmol, 6.1 g | [Br-].[Br-].[Br-].[NH+]1=CC=CC=C1.[NH+]1=CC=CC=C1.[NH+]1=CC=CC=C1
reactant | water | 0.5 mL | O | H2O
solvent | 2-methyl-2-propanol | 33 mL | CC(C)(C)O | C4H10O
solvent | ethanol | 22 mL | C(C)O | C2H6O
solvent | acetic acid | 11 mL | C(C)(=O)O | C2H4O2
catalyst | zinc | 57 mmol, 3.7 g | [Zn] | Zn
solvent | acetic acid | 50 mL | C(C)(=O)O | C2H4O2
product | 4-phenyl-1,3-dihydro-indol-2-one | 800 mg, 67% | C1(=CC=CC=C1)C1=C2CC(NC2=CC=C1)=O | C14H11NO
